US07781591B2
A mixture of 5-iodo-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile (2.5 g, 6.7 mmol), 2-(tributylstannyl)-1-benzofuran-5-carbaldehyde (4.35 g, 10 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.38 g, 0.34 mmol) in DMF (25 mL) was heated at 120° C. for 1 h. The reaction mixture was cooled to room temperature and partitioned between ethyl acetate and water, resulting in a suspension. The insoluble material was removed by filtration and the residue was washed thoroughly with ethyl acetate. The organic layer (from filtrate) was washed with water twice and brine, dried over sodium sulfate, and concentrated and the residue was purified by column chromatography (ethyl acetate/hexane, 1:1) to give 2.0 g (76%) of 5-(5-formyl-1-benzofuran-2-yl)-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile as a yellow solid. HPLC retention time: 10.7 min.(h); MS: 393.2 (M+H); melting point: 235-237° C.; and HRMS: 393.13484.

reactant | 5-iodo-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 6.7 mmol, 2.5 g | IC=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=CC1)C | C15H11IN4
reactant | 2-(tributylstannyl)-1-benzofuran-5-carbaldehyde | 10 mmol, 4.35 g | C(CCC)[Sn](C=1OC2=C(C1)C=C(C=C2)C=O)(CCCC)CCCC
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.34 mmol, 0.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(5-formyl-1-benzofuran-2-yl)-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 2.0 g, 76% | C(=O)C=1C=CC2=C(C=C(O2)C=2C=NC=C(C#N)C2NC=2C(=C3C=CNC3=CC2)C)C1 | C24H16N4O2
